US09278964B2
Preparation of (Z)-1-(3-(2-isopropyl-5-methylphenyl)-4-oxothiazolidin-2-ylidene)-3-(1-(4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)benzyl)cyclopropyl)urea (FB63)
The title compound was prepared as described in Example 95 using 1-(4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)benzyl)cyclopropanamine (CB30) and (Z)-4-nitrophenyl (3-(2-isopropyl-5-methylphenyl)-4-oxothiazolidin-2-ylidene)carbamate (CA50), purified by flash column chromatography using 0-100% ethyl acetate/B, where B=1:1 dichloromethane/hexanes, as eluent and isolated as red oil (0.104 g, 37%).

reactant | 1-(4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)benzyl)cyclopropanamine | FC(OC1=CC=C(C=C1)N1N=C(N=C1)C1=CC=C(CC2(CC2)N)C=C1)(F)F | C19H17F3N4O
reactant | (Z)-4-nitrophenyl (3-(2-isopropyl-5-methylphenyl)-4-oxothiazolidin-2-ylidene)carbamate | C(C)(C)C1=C(C=C(C=C1)C)N1/C(/SCC1=O)=N/C(OC1=CC=C(C=C1)[N+](=O)[O-])=O | C20H19N3O5S
product | (Z)-1-(3-(2-isopropyl-5-methylphenyl)-4-oxothiazolidin-2-ylidene)-3-(1-(4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)benzyl)cyclopropyl)urea | C(C)(C)C1=C(C=C(C=C1)C)N1/C(/SCC1=O)=N/C(=O)NC1(CC1)CC1=CC=C(C=C1)C1=NN(C=N1)C1=CC=C(C=C1)OC(F)(F)F | C33H31F3N6O3S
